US07091314B2
1) Synthesis of Fmoc-Orn(Z)-ol
Commercially available Fmoc-Orn(Z) was converted to the alcohol by reduction of its mixed anhydride with sodium borohydride. After crystallization from EtOAc, the compound was thereafter used without further purification.

reactant | Fmoc-Orn(Z) | N([C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C28H28N2O6
reactant | sodium borohydride | [BH4-].[Na+]
product | Fmoc-Orn(Z)-ol | N([C@@H](CCCNC(=O)OCC1=CC=CC=C1)CO)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C28H30N2O5
